US08541448B2
Intermediate 60.3: 6-chloroquinazoline-2,4(1H,3H)-dione
Into a 500-mL 3-necked round-bottom flask, was placed a solution of 2-amino-5-chlorobenzoic acid (10 g, 58.48 mmol, 1.00 equiv) in water (100 mL), acetic acid (8 g, 133.33 mmol, 2.24 equiv). This was followed by the addition of NaOCN (8.2 g, 126.15 mmol, 2.13 equiv). The mixture was stirred for 30 mins at 30° C. To this was added sodium hydroxide (86 g, 2.15 mol, 37.00 equiv). The resulting solution was stirred overnight at 30° C. The solids were collected by filtration. The residue was dissolved in water. The pH value of the solution was adjusted to 7 with hydrogen chloride (12 mol/L). The solids were collected by filtration. This resulted in 5 g (44%) of 6-chloroquinazoline-2,4(1H,3H)-dione as a white solid.

reactant | 2-amino-5-chlorobenzoic acid | 58.48 mmol, 10 g, 1.00 equiv | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | acetic acid | 133.33 mmol, 8 g, 2.24 equiv | C(C)(=O)O | C2H4O2
reactant | NaOCN | 126.15 mmol, 8.2 g, 2.13 equiv | O([Na])C#N
reactant | sodium hydroxide | 2.15 mol, 86 g, 37.00 equiv | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 6-chloroquinazoline-2,4(1H,3H)-dione | ClC=1C=C2C(NC(NC2=CC1)=O)=O | C8H5ClN2O2
